US07326788B2
6-Chloro-3,4-diphenyl-1H-quinolin-2-one
from phenylacetic acid and (2-amino-5-chloro-phenyl)-phenyl-methanone according to general procedure 2. Yield 53%.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
product | 6-Chloro-3,4-diphenyl-1H-quinolin-2-one | Yield 53% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H14ClNO
